US04694017
10.2 Grams of L-tryptophane was suspended in 7.8 g of dimethyl sulfoxide, then 16.6 ml of concentrated hydrochloric acid was added all at once in the suspension, and the mixture was stirred at a room temperature overnight. The crystals formed in the reaction mixture were collected by filtration, then washed with acetone and dried to obtain 9.8 g of 2-amino-3-(oxindol-3-yl)propionic acid hydrochloride. [α]D20 +22.5° (C=1, methanol)

reactant | L-tryptophane | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | hydrochloric acid | 16.6 ml | Cl | ClH
reactant | dimethyl sulfoxide | 7.8 g | CS(=O)C | C2H6OS
product | 2-amino-3-(oxindol-3-yl)propionic acid hydrochloride | 9.8 g | Cl.NC(C(=O)O)CC1C(NC2=CC=CC=C12)=O | InChI=1S/C11H12N2O3.ClH/c12-8(11(15)16)5-7-6-3-1-2-4-9(6)13-10(7)14;/h1-4,7-8H,5,12H2,(H,13,14)(H,15,16);1H
